US07977364B2
6-benzyloxy-3-cyclopentyl-1-(4-benzyloxyphenyl)-1H-indazole
Using the same procedure but replacing cyclopentyl (4-benzyloxy-2-fluorophenyl)methanone by cyclohexyl (4-benzyloxy-2-fluorophenyl)methanone and hydrazine hydrate by methylhydrazine or benzylhydrazine, the following compound were respectively obtained:

reactant | cyclohexyl (4-benzyloxy-2-fluorophenyl)methanone | C1(CCCCC1)C(=O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F | C20H21FO2
reactant | hydrazine hydrate | O.NN
reactant | methylhydrazine | CNN | CH6N2
reactant | benzylhydrazine | C(C1=CC=CC=C1)NN | C7H10N2
product | 6-benzyloxy-3-cyclopentyl-1-(4-benzyloxyphenyl)-1H-indazole | C(C1=CC=CC=C1)OC1=CC=C2C(=NN(C2=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1CCCC1 | C32H30N2O2
